US06787053B2
To a 1 L monel metal reactor charged with 18 g (0.43 mol) of NaF, 12.1 g (0.112 mol) of CH2(COF)2 was charged with condensation, and thereto, 0.1 g/h of fluorine gas was blown gradually while controlling increasing the inner pressure with keeping the reactor at 0° C., and the reaction was conducted. When the total pressure increased by the product reached to 0.44 atm, the blowing of fluorine gas was finshed. The reaction product was separated and purified, and 1.7 g (0.0118 mol) of CF2(COF)2 was obtained. It was confirmed with FT-IR and 19F-NMR that the resulting compound was CF2(COF)2. The yield thereof was 10%.

reactant | NaF | 0.43 mol, 18 g | [F-].[Na+]
reactant | CH2(COF)2 | 0.112 mol, 12.1 g | C(C(=O)F)C(=O)F | C3H2F2O2
reactant | fluorine | FF | F2
product | CF2(COF)2 | 0.0118 mol, 1.7 g | C(F)(F)(C(=O)F)C(=O)F | C3F4O2
